US06340506B1
3.92 ml (25.2 mmol) of 1,6-hexanediol vinyl ether were added to a solution of 5.0 g (24.0 mmol) of (E)-4-hydroxy-3-methoxycinnamic acid methyl ester and 6.61 g (25.2 mmol) of triphenylphosphine in 150 ml of tetrahydrofuran. The colourless solution was subsequently cooled to 0° C. and then 11.5 ml (25.3 mmol) of a 40% solution of azodicarboxylic acid diethyl ester in toluene were added dropwise thereto in the course of 30 minutes. The mixture was subsequently allowed to react first for 30 minutes at 0° C. and then for 22.5 hours at room temperature. 150 ml of methanol and 10 drops of concentrated sulphuric acid were then added to the reaction solution and the mixture was stirred for 1.5 hours. The reaction mixture was then partitioned between ethyl acetate and water; the organic phase was washed with a saturated sodium bicarbonate solution and repeatedly with saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated by evaporation. Chromatography of the residue on 470 g of silica gel using toluene/ethyl acetate 1:1 and subsequent crystallisation from ethyl acetate/hexane 3:5 yielded 6.13 g of 4-(6-hydroxyhexyloxy)-3-methoxycinnamic acid methyl ester.

reactant | 1,6-hexanediol vinyl ether | 25.2 mmol, 3.92 ml | C(=C)OCCCCCCO | C8H16O2
reactant | (E)-4-hydroxy-3-methoxycinnamic acid methyl ester | 24.0 mmol, 5.0 g | COC(\C=C\C1=CC(=C(C=C1)O)OC)=O | C11H12O4
reactant | triphenylphosphine | 25.2 mmol, 6.61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethyl ester | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | sulphuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 150 ml | CO | CH4O
product | 4-(6-hydroxyhexyloxy)-3-methoxycinnamic acid methyl ester | 6.13 g | COC(C=CC1=CC(=C(C=C1)OCCCCCCO)OC)=O | C17H24O5
